US08222297B2
2) Synthesis of 4-hydrazino-2-methylquinoline
A solution of 4-chloro-2-methylquinoline (5.01 g, 28.2 mmol) and 80% hydrazine hydrate (8 ml) solution was refluxed in ethanol (30 mL) for 8 h. The resulting solution was cooled to room temperature and the solid formed was collected by filtration, washed with ethanol, and dried to yield known 4-hydrazino-2-methylquinoline,54,55 4.712 g (79.70%); mp 195-197° C.; 1H NMR (DMSO-d6) δ 2.64 (3H, s, Me), 5.15 (2H, brs, exchangeable, NH2), 6.99 (1H, s, ArH), 7.58 (1H, t, J=7.6 Hz, ArH), 7.86 (1H, t, J=7.6 Hz, ArH), 7.85 (1H, d, J=8.4 Hz, ArH), 8.42 (1H, d, J=8.2 Hz, ArH), 10.64 (1H, s, exchangeable, NH), Anal. Calcd. for (C10H12N3.HCl): C, 57.28; H, 5.77; N, 20.04. Found: C, 57.28; H, 5.77; N, 20.04.

reactant | 4-chloro-2-methylquinoline | 28.2 mmol, 5.01 g | ClC1=CC(=NC2=CC=CC=C12)C | C10H8ClN
reactant | hydrazine hydrate | 8 ml | O.NN
solvent | ethanol | 30 mL | C(C)O | C2H6O
product | 4-hydrazino-2-methylquinoline | N(N)C1=CC(=NC2=CC=CC=C12)C | C10H11N3
